US09428509B2
4-Amino-3-chloro-N,N-dimethylbenzamide
To a solution of 4-amino-3-chlorobenzoic acid (1 equiv) in DCM (0.12 M) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.2 equiv), 1-hydroxybenzotriazole (1.2 equiv), triethylamine (4 equiv) and dimethylamine hydrochloride (2 equiv) sequentially. The mixture was stirred at room temperature overnight. After the reaction was complete, as monitored by LCMS, the mixture was diluted with a mixture of isopropanol in chloroform (30%), washed with water and dried over anhydrous sodium sulfate. The organic phase was concentrated and the residue obtained was recrystallized in the mixture of hexane and ethyl acetate (10%) to afford the desired product (Yield: 59.6%) as a light brown solid. MS (ESI) m/z 199.1 [M+1]+.

reactant | 4-amino-3-chlorobenzoic acid | 1 equiv | NC1=C(C=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.2 equiv | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.2 equiv | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 4 equiv | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 2 equiv | Cl.CNC
solvent | DCM | 0.12 M | C(Cl)Cl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Amino-3-chloro-N,N-dimethylbenzamide | Yield: 59.6% | NC1=C(C=C(C(=O)N(C)C)C=C1)Cl | C9H11ClN2O
